US09126931B2
2-Cyano-4-hydrazinopyridine
4-Chloro-2-cyanopyridine (1 g) was dissolved in hydrazine monohydrate (1 ml) and 1,4-dioxane (10 ml), and stirred overnight under reflux. The reaction solution was diluted with water (30 ml) and extracted repeatedly with ethyl acetate. The organic layer was concentrated to obtain the title compound as a crude product, which was used for the next step without further purification.

reactant | 4-Chloro-2-cyanopyridine | 1 g | ClC1=CC(=NC=C1)C#N | C6H3ClN2
reactant | hydrazine monohydrate | 1 ml | O.NN
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | water | 30 ml | O | H2O
product | 2-Cyano-4-hydrazinopyridine | C(#N)C1=NC=CC(=C1)NN | C6H6N4
